US06184225B2
A solution of methoxyacetaldehyde dimethyl acetal (1.27 g, 10 mol) in water (7 ml) and 2M hydrochloric acid (76 μl) was heated at 50-60° C. for 2 hours. The mixture was allowed to cool and adjusted to pH7.5 with saturated aqueous sodium hydrogen carbonate solution. This solution was added to a suspension of 7-amino-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)quinazoline hydrochloride (400 mg, 1 mmol), (prepared as described for the starting material in Example 30), in ethanol (32 ml) and acetic acid (95 μl, 1.5 mmol). The mixture was then stirred for 5 minutes, sodium cyanoborohydride (133 mg, 2 mmol) added and the solution adjusted to pH5.5 with glacial acetic acid. The mixture was stirred for 18 hours and the organic solvents removed by evaporation and the resulting aqueous mixture partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (96/4 followed by 12/8) to give 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-(2-methoxyethylamino)quinazoline (308 mg, 77%) as a yellow foam.

reactant | methoxyacetaldehyde dimethyl acetal | 10 mol, 1.27 g | COC(COC)OC | C5H12O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 7-amino-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)quinazoline hydrochloride | 1 mmol, 400 mg | Cl.NC1=CC=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OC(=O)OC)C)F
reactant | sodium cyanoborohydride | 2 mmol, 133 mg | C(#N)[BH3-].[Na+]
solvent | water | 7 ml | O | H2O
solvent | hydrochloric acid | 2M, 76 μl | Cl | ClH
solvent | ethanol | 32 ml | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.5 mmol, 95 μl | C(C)(=O)O | C2H4O2
product | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-(2-methoxyethylamino)quinazoline | 308 mg, 77% | FC1=C(NC2=NC=NC3=CC(=CC=C23)NCCOC)C=C(C(=C1)C)OC(=O)OC | C20H21FN4O4
